US07015218B1
5-Amino-2-(4-piperidinopiperidin-1-yl)benzonitrile
Subsequently, ammonium chloride (0.7 g) and iron powder (3.8 g) were added to a mixed solvent of water (30 ml) and ethanol (120 ml), and the mixture was heated to 65° C. Then, 5-nitro-2-(4-piperidinopiperidin-1-yl)benzonitrile (6.2 g) was added in parts over 20 min and the mixture was stirred at a refluxing temperature for 30 min. The reaction mixture was ice-cooled and filtrated. The solvent was evaporated under reduced pressure. To the residue was added aqueous sodium hydroxide solution and the mixture was extracted with toluene. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, after which the solvent was evaporated under reduced pressure. Diisopropyl ether was added to the residue to allow crystallization. The crystals were recrystallized from a mixed solvent of ethyl acetate-n-hexane to give the title compound (4.8 g), melting point: 110–112° C.

reactant | ammonium chloride | 0.7 g | [Cl-].[NH4+]
reactant | water | 30 ml | O | H2O
reactant | 5-nitro-2-(4-piperidinopiperidin-1-yl)benzonitrile | 6.2 g | [N+](=O)([O-])C=1C=CC(=C(C#N)C1)N1CCC(CC1)N1CCCCC1 | C17H22N4O2
catalyst | iron | 3.8 g | [Fe] | Fe
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 5-Amino-2-(4-piperidinopiperidin-1-yl)benzonitrile | 4.8 g | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)N1CCCCC1 | C17H24N4
